US06331538B1
1-Cyclopropyl-6-fluoro-3-hydroxy-7-(4-methylpiperazin-1-yl)-1H-pyrido[2,3-d]pyrimidine-2,4dione, Hydrochloride
Following the procedure of Example 32, the reaction of 3-benzyloxy-1-cyclopropyl-6-fluoro-7-(4-methylpiperazin-1-yl)-1H-pyrido[2,3-d]pyrimidine-2,4-dione (Example L-2, 65 mg, 0.157 mmol), 10% Pd/C (30 mg) in MeOH (3 mL) under a hydrogen atmosphere, followed by adding a few drop of acetyl chloride into the reaction mixture provided 45 mg of the title compound as powder, mp >300° C. (decomp.).

reactant | 3-benzyloxy-1-cyclopropyl-6-fluoro-7-(4-methylpiperazin-1-yl)-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 0.157 mmol, 65 mg | C(C1=CC=CC=C1)ON1C(N(C2=C(C1=O)C=C(C(=N2)N2CCN(CC2)C)F)C2CC2)=O | C22H24FN5O3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | MeOH | 3 mL | CO | CH4O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 1-Cyclopropyl-6-fluoro-3-hydroxy-7-(4-methylpiperazin-1-yl)-1H-pyrido[2,3-d]pyrimidine-2,4dione, Hydrochloride | 45 mg | Cl.C1(CC1)N1C(N(C(C2=C1N=C(C(=C2)F)N2CCN(CC2)C)=O)O)=O | InChI=1S/C15H18FN5O3.ClH/c1-18-4-6-19(7-5-18)13-11(16)8-10-12(17-13)20(9-2-3-9)15(23)21(24)14(10)22;/h8-9,24H,2-7H2,1H3;1H
